US07307076B2
a) 8-benzyloxy-5-{2-[2-(2,4-difluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-1H-quinolin-2-one
587 mg (2 mmol) 8-benzyloxy-5-oxiranyl-1H-quinolin-2-one and 555 mg (3 mmol) 2-(2,4-difluoro-phenyl)-1,1-dimethyl-ethylamine are reacted and worked up as described for Example 1a). Yield: 220 mg (23%); mass spectroscopy [M+H]+=479.

reactant | 8-benzyloxy-5-oxiranyl-1H-quinolin-2-one | 2 mmol, 587 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C1OC1 | C18H15NO3
reactant | 2-(2,4-difluoro-phenyl)-1,1-dimethyl-ethylamine | 3 mmol, 555 mg | FC1=C(C=CC(=C1)F)CC(C)(C)N | C10H13F2N
product | 8-benzyloxy-5-{2-[2-(2,4-difluoro-phenyl)-1,1-dimethyl-ethylamino]-1-hydroxy-ethyl}-1H-quinolin-2-one | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC(CC1=C(C=C(C=C1)F)F)(C)C)O | C28H28F2N2O3
